US05292749
(R)-3-Quinuclidinyl 2-phenylacetate PG,70
Phenylacetic acid anhydride (prepared as described in J. Org. Chem., 1588, 30, 1965) (15 g) was added to a suspension of (R)-3-quinuclidinol (5 g) in ethyl acetate (250 ml) at room temperature. After 178 hour the solvent was evaporated and the residue dissolved in hydrochloric acid (2M). This was washed with ethyl acetate, basified with sodium carbonate and extracted with ethyl acetate. The organic extract was dried over sodium sulphate and evaporated to give the title compound as a yellow oil (9 g, 66%).

reactant | Phenylacetic acid anhydride | 15 g | C1(=CC=CC=C1)CC(=O)OC(CC1=CC=CC=C1)=O | C16H14O3
reactant | (R)-3-quinuclidinol | 5 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | (R)-3-Quinuclidinyl 2-phenylacetate | 9 g, 66% | C1(=CC=CC=C1)CC(=O)O[C@H]1CN2CCC1CC2 | C15H19NO2
